US04960787
A solution of 1.0 g of N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine in 60 ml of toluene is stirred and treated first with one mole equivalent of 4.0M ethanolic HCl, followed by 10 ml of 2.0M phosgene in toluene. The solution is stirred for 7 hours, 50 ml of concentrated ammonium hydroxide is added and the mixture is stirred overnight. Excess water is then added and the mixture is again stirred for 2 hours. The organic layer is separated, washed with brine, dried over magnesium sulfate, treated with charcoal and evaporated to dryness to yield N-carbamoyl-N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine.

reactant | N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | 1.0 g | ONC(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C14H18N2O
reactant | HCl | 4.0M | Cl | ClH
reactant | phosgene | 2.0M, 10 ml | C(=O)(Cl)Cl | CCl2O
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-carbamoyl-N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | C(N)(=O)N(O)C(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C15H19N3O2
